US06114358
a) Ethyl 4-oxopentanoate
100 g (0.86 mol) of 4-oxopentanoic acid, 150 g of ethanol and 1 ml of sulfuric acid in 200 ml of benzene were refluxed until water separation in the Dean-Stark trap ceased. The cooled reaction mixture was washed with water, sodium carbonate solution and again with water and then dried under reflux with the Dean-Stark trap. When removal of the water phase was complete, the solvent was removed by distillation and the residue was distilled under reduced pressure. Boiling point 85-87° C./16 mm Hg, yield 105.5 g (85%).

reactant | 4-oxopentanoic acid | 0.86 mol, 100 g | O=C(CCC(=O)O)C | C5H8O3
reactant | ethanol | 150 g | C(C)O | C2H6O
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | Ethyl 4-oxopentanoate | O=C(CCC(=O)OCC)C | C7H12O3
